US05294724
1-Acetyl-2,5-diisopropylbenzene (scheme 3, formula XIV)
A solution of 142 ml (157 g, 2.0 mol) of acetyl chloride in 362 ml (310 g, 1.91 mol) of 1,4-diisopropylbenzene was added dropwise during the course of 2 hours to a suspension of 200 g (1.5 mol) of aluminum trichloride in 260 ml of carbon disulfide cooled to -10° C. The mixture was stirred for a further 1.5 hours at -100° C., in the course of which the evolution of hydrogen chloride greatly decreased, and a further 100 g (0.75 mol) of aluminum trichloride were then added in portions and the mixture was stirred for a further hour. The reaction mixture was cautiously poured onto I kg of ice/100 ml of 2N hydrochloric acid (strongly exothermic? ). The oily organic phase was separated off and the aqueous phase was extracted twice using ether. The combined organic phases were washed with dilute sodium carbonate solution, then with water and dried over calcium chloride. The solvents were stripped off and the residue was distilled through a 30 cm Vigreux column in a pump vacuum. After a forerun (b.p. 70°-91° C./ 0.6 torr, colorless oil, 10.9 g), the title compound (b.p. 92°-95° C./0.6 torr, colorless oil, 344.3 g, 1.69 mol), was obtained, yield 88.4%. The afterrun (b.p. 97°-104° C./1.0 torr, 10.25 g) is a colorless oil which immediately solidifies.

reactant | acetyl chloride | 2.0 mol, 142 ml, 157 g | C(C)(=O)Cl | C2H3ClO
reactant | 1,4-diisopropylbenzene | 1.91 mol, 362 ml, 310 g | C(C)(C)C1=CC=C(C=C1)C(C)C | C12H18
reactant | aluminum trichloride | 1.5 mol, 200 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrogen chloride | Cl | ClH
reactant | aluminum trichloride | 0.75 mol, 100 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | carbon disulfide | 260 ml | C(=S)=S | CS2
product | 1-Acetyl-2,5-diisopropylbenzene | 1.69 mol, 344.3 g, yield 88.4% | C(C)(=O)C1=C(C=CC(=C1)C(C)C)C(C)C | C14H20O
